US07820650B2
A solution of 2-amino-6-chloro-benzonitrile (30 g), 2,5-dimethoxytetrahydrofuran (30 g) and 4-chloropyridine hydrochloride (17 g) in dioxane was heated to 70° C. for 2.5 h. The solvent was evaproated in vacuo. Dichloromethane was then added to the residue and the spent 4-chloropyridine hydrochloride filtered off. The dichloromethane was evaporated in vacuo to give 1-(3′chloro-2′-cyanophenyl)pyrrole (35 g)

reactant | 2-amino-6-chloro-benzonitrile | 30 g | NC1=C(C#N)C(=CC=C1)Cl | C7H5ClN2
reactant | 2,5-dimethoxytetrahydrofuran | 30 g | COC1OC(CC1)OC | C6H12O3
reactant | 4-chloropyridine hydrochloride | 17 g | Cl.ClC1=CC=NC=C1
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3′chloro-2′-cyanophenyl)pyrrole | 35 g | ClC=1C(=C(C=CC1)N1C=CC=C1)C#N | C11H7ClN2
